US07253285B2
The solid 2-[(4-bromo-phenylamino)-methylene]-malonic acid diethyl ester (157 g, 458.8 mmol) was added to a hot diphenyl ether (260 g) and the mixture was heated to reflux for 5 h to afford a brown suspension. Then, the mixture was cooled to 100° C. and diluted with ethanol (˜200 mL). This suspension was refluxed for 10 min and then cooled to room temperature. The solids were collected by filtration and washed with diethyl ether. After drying in air, 132.59 g (97.6% yield) of 6-bromo-4-hydroxy-quinoline-3-carboxylic acid ethyl ester was isolated as a white solid: EI-HRMS m/e calcd for C8H6N2O (M+) 146.0480, found 146.0478.

reactant | 2-[(4-bromo-phenylamino)-methylene]-malonic acid diethyl ester | 458.8 mmol, 157 g | C(C)OC(C(C(=O)OCC)=CNC1=CC=C(C=C1)Br)=O | C14H16BrNO4
reactant | diphenyl ether | 260 g | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | ethanol | ˜200 mL | C(C)O | C2H6O
product | 6-bromo-4-hydroxy-quinoline-3-carboxylic acid ethyl ester | 132.59 g, 97.6% yield | C(C)OC(=O)C=1C=NC2=CC=C(C=C2C1O)Br | C12H10BrNO3
